US06281361B1
7.1 g of 3-hydroxy-5-methyl-7-(1,1,3,3-tetramethyl-butyl)-3H-benzofuran-2-one (U.S. Pat. No. 5,614,572, column 35, compound No 111) are placed in 12.5 ml of toluene, and 3 drops of DMF and 2.7 ml of thionyl chloride are added thereto. The solution is then slowly heated to 373 K at such a rate that the evolution of HCl and SO2 remains vigorous yet controllable. It is then stirred at 373 K for 1 hour. Approximately 12 ml of liquid are then distilled off in order to remove the excess thionyl chloride. The residue is diluted with 37.5 ml of toluene and, at room temperature, 3.5 ml of triethylamine are added dropwise. The thick, red reaction mixture is then heated to reflux temperature and boiled for 30 min. After cooling to room temperature, the triethylamine hydrochloride which has precipitated is filtered off, and the filtrate is concentrated to an oily consistency using a rotary evaporator. The isoxindigo is crystallised out by adding 25 ml of acetonitrile, is filtered off, washed with acetonitrile and dried, yielding 3.45 g (53% of the theoretical yield) of 5,5′-dimethyl-7,7′-bis(1,1,3,3-tetra-methyl-butyl)-[3,3′]bibenzofuranylidene-2,2′-dione of formula (LIIa).

reactant | 3-hydroxy-5-methyl-7-(1,1,3,3-tetramethyl-butyl)-3H-benzofuran-2-one | 7.1 g | OC1C(OC2=C1C=C(C=C2C(CC(C)(C)C)(C)C)C)=O | C17H24O3
reactant | thionyl chloride | 2.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | toluene | 12.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 5,5′-dimethyl-7,7′-bis(1,1,3,3-tetra-methyl-butyl)-[3,3′]bibenzofuranylidene-2,2′-dione | CC=1C=C(C2=C(C(C(O2)=O)=C2C(OC3=C2C=C(C=C3C(CC(C)(C)C)(C)C)C)=O)C1)C(CC(C)(C)C)(C)C | C34H44O4
